US07511050B2
Step A: 2-(3-bromophenyl)-N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]acetohydrazide
The mixture of (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone (0.30 g, 1.3 mmol), (3-bromophenyl)acetic acid (0.30 g, 1.4 mmol), benzotriazol-1-yloxytris-(dimethylamino)phosphonium hexafluorophosphate (0.62 g, 1.4 mol) and triethylamine (0.53 mL, 3.8 mmol) in DMF (10 mL) were stirred at rt overnight. The reaction mixture was diluted with EtOAc. The solid was filtered, washed with EA and dried to yield the desired product (430 mg, 78.2%). LCMS calculated for C18H22BrN6O2 (M+H): 433.1; found: 433.1.

reactant | (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone | 1.3 mmol, 0.30 g | C(CCCC)N1/C(/NC(C=2NC=NC12)=O)=N/N | C10H16N6O
reactant | (3-bromophenyl)acetic acid | 1.4 mmol, 0.30 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | benzotriazol-1-yloxytris-(dimethylamino)phosphonium hexafluorophosphate | 1.4 mol, 0.62 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 3.8 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-bromophenyl)-N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]acetohydrazide | 430 mg, 78.2% | BrC=1C=C(C=CC1)CC(=O)N/N=C/1\NC(C=2NC=NC2N1CCCCC)=O | C18H21BrN6O2
